US07737135B2
a) 4-bromo-2-fluoro-N-methyl-benzamide
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-fluorobenzoic acid and methylamine hydrochloride.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | methylamine hydrochloride | Cl.CN
product | 4-bromo-2-fluoro-N-methyl-benzamide | BrC1=CC(=C(C(=O)NC)C=C1)F | C8H7BrFNO
